US08258130B2
4-Methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-methoxy-indol-1-yl)-amide
Following procedures similar to those of Example 127, but substituting 5-methoxy-indol-1-ylamine for pyrrolo[3,2-b]pyridine-1-ylamine, and the reaction is stirred at 150° C. for 1 h, there is prepared 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-methoxy-indol-1-yl)-amide (22%) as a solid. MS: 360 (M+H); 1H NMR (300 MHz, CD3OD): δ 2.88 (s, 3H), 3.84 (s, 3H), 6.50 (d, H) 6.90 (m, H), 7.13 (d, H), 7.25-7.34 (m, 2H), 7.60 (m, H), 8.05 (m, H), 8.65 (d, H), 8.79 (d, H), 9.20 (s, 2H).

reactant | pyrrolo[3,2-b]pyridine-1-ylamine | N1(C=CC2=NC=CC=C21)N | C7H7N3
reactant | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-methoxy-indol-1-yl)-amide | COC=1C=C2C=CN(C2=CC1)NC(=O)C=1C=NC(=NC1)C1=NC=CC=C1 | C19H15N5O2
product | 4-Methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-methoxy-indol-1-yl)-amide | COC=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=C1)C | C20H17N5O2
